US04151303
To a solution of 54.9 g. (0.4 mol) tyramine in 200 ml. pyridine are added dropwise, while stirring at 30°-35° C., 65.8 g. (0.84 mol) acetyl chloride. The reaction mixture is subsequently heated for 15 minutes on a boiling waterbath, then cooled and poured into a mixture of ice and water. By the addition of concentrated hydrochloric acid, it is made markedly acidic and subsequently extracted with chloroform. The chloroform phase is washed with water, dried over anhydrous calcium chloride and then evaporated. There is obtained a residue of 88.5 g. (quantitative yield) of diacetyl-tyramine, which melts at 99°-100° C. after recrystallization from benzene. The diacetyl-tyramine is dissolved in 500 ml. methanol. 800 ml. (0.8 mol) 1 N aqueous potassium hydroxide solution are now added thereto, the temperature thereby increasing to about 30° C., and the mixture is subsequently maintained for 2 hours at an internal temperature of 50° C. It is then cooled, weakly acidified with concentrated hydrochloric acid and the methanol evaporated off in a vacuum. The product which crystallizes out is filtered off with suction, thoroughly washed with water and then dried. There are obtained 58.3 g. (81% of theory) N-acetyl tyramine which, after recrystallization from ethyl acetate, has a melting point of 131° C.

reactant | tyramine | 0.4 mol | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.84 mol | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | diacetyl-tyramine | quantitative yield | C(C)(=O)N(CCC1=CC=C(C=C1)O)C(C)=O | C12H15NO3
